US08664220B2
Step 1: 5-(4-Bromo-phenyl)-3-methyl-4-vinyl-isoxazole
Potassium tert-butoxide (1.0M in THF, 13.53 mL, 13.53 mmol) was added to a suspension of methyltriphenylphosphonium bromide (4.8 g, 13.53 mmol) in THF (40 mL) at 0° C. 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde (1.8 g, 6.76 mmol) in THF (40 mL) was then added and the reaction stirred at 0° C. for 30 minutes. The reaction was then submitted to standard aqueous workup and purified on silica gel to afford the title compound.

reactant | Potassium tert-butoxide | 13.53 mmol, 1.0M, 13.53 mL | CC(C)([O-])C.[K+]
reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | 6.76 mmol, 1.8 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
catalyst | methyltriphenylphosphonium bromide | 13.53 mmol, 4.8 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 5-(4-Bromo-phenyl)-3-methyl-4-vinyl-isoxazole | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=C | C12H10BrNO
